US04364956
5-(4-Chlorophenylthio)-4-oxo-4H-pyran-2-carboxylic acid
A solution of ethyl 5-(4-chlorophenylthio)-4-oxo-4H-pyran-2-carboxylate (5.0 g) in dioxan (40 ml) and concentrated hydrochloric acid (20 ml) was heated under reflux for 2 hours then evaporated under vacuum. The solid residue was dried and recrystallised from ethyl acetate-petroleum spirit (60°-80° C.) to give the title product (mp 165°-167° C. with decomposition).

reactant | ethyl 5-(4-chlorophenylthio)-4-oxo-4H-pyran-2-carboxylate | 5.0 g | ClC1=CC=C(C=C1)SC=1C(C=C(OC1)C(=O)OCC)=O | C14H11ClO4S
solvent | dioxan | 40 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 5-(4-Chlorophenylthio)-4-oxo-4H-pyran-2-carboxylic acid | ClC1=CC=C(C=C1)SC=1C(C=C(OC1)C(=O)O)=O | C12H7ClO4S
